US07456167B2
3-Cyclohexyl-1H-indole-6-carboxylic acid.
3-Cyclohexenyl-1H-indole-6-carboxylic acid (38 g) was added to a Parr bottle, followed by methanol (100 mL) and THF (100 mL). The bottle was flushed with argon and 10% palladium on carbon (1.2 g) was added. The flask was then evacuated and subsequently refilled with H2 to a pressure of 55 psi, and the resultant mixture was shaken for 18 hours at RT. The catalyst was then removed by filtration through celite. Concentration of the filtrate provided the desired product as a pale purple solid (30.6 g, 79%). ESI-MS m/z 244 (MH+).

reactant | 3-Cyclohexenyl-1H-indole-6-carboxylic acid | 38 g | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
reactant | methanol | 100 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Cyclohexyl-1H-indole-6-carboxylic acid | 30.6 g, 79% | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H17NO2
